US04920184
To a one-liter 3-neck flask with reflux condenser and dropping funnel, 29 g (170 mmoles) of SiCl4 in 150 mL of anhydrous ether were added. Allyl magnesium bromide solution [from 10 g (400 mmoles) of magnesium and 41.5 g (34 mmoles) of allyl bromide in 250 mL of anhydrous ether], filtered through glass wool, was added dropwise, MgBrCl precipitating. After boiling for 1.5 hours under reflux and washing the residue, diallyldichlorosilane was obtained at 56° C. and 16 hPa as a colorless liquid in a 15% yield.

reactant | SiCl4 | 170 mmoles, 29 g | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
reactant | Allyl magnesium bromide | 400 mmoles, 250 mL, 10 g | C(C=C)[Mg]Br
reactant | magnesium | 400 mmoles | [Mg] | Mg
reactant | allyl bromide | 34 mmoles | C(C=C)Br | C3H5Br
solvent | ether | 150 mL | CCOCC | C4H10O
product | diallyldichlorosilane | 15% yield | C(C=C)[Si](Cl)(Cl)CC=C | C6H10Cl2Si
